US20010052156A1
1.3.8. Preparation of N,N-Diethyl-2-Nitro-5-Aminoaniline
Step b) was carried out in the same way as Example 1.3.3. step b) by reacting N,N-diethyl-2-nitro-5-acetaminoaniline with hydrochloric acid.

reactant | N,N-diethyl-2-nitro-5-acetaminoaniline | C(C)N(C1=C(C=CC(=C1)NC(=O)C)[N+](=O)[O-])CC | C12H17N3O3
reactant | hydrochloric acid | Cl | ClH
product | N,N-Diethyl-2-Nitro-5-Aminoaniline | C(C)N(C1=C(C=CC(=C1)N)[N+](=O)[O-])CC | C10H15N3O2
